US06313127B1
Using an analogous procedure to that described in Example 39, but using as starting material 1-(4-acetylphenyl)-4-(4-pyridyl)piperazine in place of 1-(4-formylphenyl)-4-(4pyridyl)piperazine and 4-tolualdehyde in place of 4-methylacetophenone, was prepared 1-[4-(4-methylphenylpropionyl)-phenyl]-4-(4-pyridyl)piperazine (27% yield), m.p. 130-132° C.

reactant | 1-(4-acetylphenyl)-4-(4-pyridyl)piperazine | C(C)(=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C17H19N3O
reactant | 4-tolualdehyde | C1(=CC=C(C=C1)C=O)C | C8H8O
product | 1-[4-(4-methylphenylpropionyl)-phenyl]-4-(4-pyridyl)piperazine | 27% yield | CC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C25H27N3O
